US04269845
2,2-Dimethyl-6-p-chlorophenyl-hex-4-en-3,6-dione (0.05 mol) and 1,2,4-triazole (0.05 mol) were suspended in toluene (200 ml) and refluxed for 24 hours. After cooling to room temperature, the excess triazole was filtered off and the organic layer washed with water (2×150 ml) and dried over anhydrous sodium sulphate. Removal of the solvent gave a brown solid which on recrystallisation from petrol/chloroform gave 4-(1,2,4-triazol-1-yl)-2,2-dimethyl-6-p-chlorophenyl-hexan-3,6-dione (75% yield) as colourless needles m.p. 116°-119°.

reactant | 2,2-Dimethyl-6-p-chlorophenyl-hex-4-en-3,6-dione | 0.05 mol | CC(C)(C(C=CC(=O)C1=CC=C(C=C1)Cl)=O)C | C14H15ClO2
reactant | 1,2,4-triazole | 0.05 mol | N1N=CN=C1 | C2H3N3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1,2,4-triazol-1-yl)-2,2-dimethyl-6-p-chlorophenyl-hexan-3,6-dione | 75% yield | N1(N=CN=C1)C(C(C(C)(C)C)=O)CC(=O)C1=CC=C(C=C1)Cl | C16H18ClN3O2
